US06046201
Methyl 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate
To 100 g of 1-ethylpiperazine warmed to 80° C. was added at 80-100° C. with stirring 50 g of methyl 6-chloropyridine-3-carboxylate. To the reaction solution was added 0.5 1 of water and the mixture was stirred. The crystal thus precipitated out was recovered by filtration, dried under reduced pressure to afford 68.8 g of the title compound as a crystal.

reactant | 1-ethylpiperazine | 100 g | C(C)N1CCNCC1 | C6H14N2
reactant | methyl 6-chloropyridine-3-carboxylate | 50 g | ClC1=CC=C(C=N1)C(=O)OC | C7H6ClNO2
solvent | water | O | H2O
product | Methyl 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate | 68.8 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)OC | C13H19N3O2
